US07087626B2
[2-Quinolin-4-yl-1-(3-trifluoromethyl-phenyl)-ethylidene]-hydrazine
A solution of 2-quinolin-4-yl-1-(3-trifluoromethyl-phenyl)-ethanone (1.0 g, 3.2 mmol) in ethanol (13 mL) is cooled to 0° C. and treated with hydrazine (0.6 g, 19 mmol) and concentrated hydrochloric acid (0.13 mL, 1.6 mmol). The mixture is refluxed for 2 h and concentrated in vacuo. The residue is taken up in dichloromethane and washed with saturated sodium bicarbonate (30 mL), water (2×30 mL), and brine (30 mL). The solution is dried over anhydrous sodium sulfate and filtered. The filtrate is concentrated to yield the title compound, 1.0 g (97%), as a pale yellow foam.

reactant | 2-quinolin-4-yl-1-(3-trifluoromethyl-phenyl)-ethanone | 3.2 mmol, 1.0 g | N1=CC=C(C2=CC=CC=C12)CC(=O)C1=CC(=CC=C1)C(F)(F)F | C18H12F3NO
reactant | hydrazine | 19 mmol, 0.6 g | NN | H4N2
reactant | hydrochloric acid | 1.6 mmol, 0.13 mL | Cl | ClH
solvent | ethanol | 13 mL | C(C)O | C2H6O
product | [2-Quinolin-4-yl-1-(3-trifluoromethyl-phenyl)-ethylidene]-hydrazine | N1=CC=C(C2=CC=CC=C12)CC(C1=CC(=CC=C1)C(F)(F)F)=NN | C18H14F3N3
